US07312191B2
5,9-Dimethyl-2-nitrodec-8-en-3-ol (6).
Nitroethane (7.5 g) was added to a stirred solution of 13.82 g of citronellal in dichloromethane. Approximately 12-14 g of Amberlyst A-21 ion exchange resin was added, and the mixture was stirred at room temperature overnight. After filtration, the resin was rinsed 4 times with 75 mL of dichloromethane. The filtrate was dried over anhydrous MgSO4 and the solvent was removed by rotary evaporation, affording 20.1 g (95%) of a mixture of stereoisomers of the desired nitro alcohol 6. 1H NMR δ (ppm) 5.2 (t, C═CH), 4.4 (m, CH3CHNO2), 2.5 (broad s, CHOH), 2.0 (br m, ═CHCH2), 1.60 and 1.65 (both s, CH3C(CH3)═), 1.5 (d, CH3CHNO2), 1.2-1.5 (m, CH2CH(CH3)CH2), 0.95 (d, CH2CH(CH3)CH2).

reactant | Nitroethane | 7.5 g | [N+](=O)([O-])CC | C2H5NO2
reactant | citronellal | 13.82 g | CC(C)=CCCC(C)CC=O | C10H18O
solvent | dichloromethane | ClCCl | CH2Cl2
product | 5,9-Dimethyl-2-nitrodec-8-en-3-ol | 20.1 g, 95% | CC(CC(C(C)[N+](=O)[O-])O)CCC=C(C)C | C12H23NO3
